US06080743
f) N-(7-Bromo-2,3-dimethoxy-quinoxalin-5-ylmethyl)-glycine tert-butyl ester
850 mg (2.35 mmol) of 7-bromo-5-bromomethyl-2,3-dimethoxy-quinoxaline, 0.982 ml of triethylamine and 719 mg of glycine tert-butyl ester hydrochloride are dissolved in 15 ml of acetonitrile and the solution is stirred at reflux for 18 hours. The mixture is concentrated by evaporation and the residue is dissolved in diethyl ether and washed with aqueous 5% sodium carbonate solution and brine. The organic phases are combined, dried over magnesium sulfate and concentrated by evaporation. The residue is chromatographed on silica gel with ethyl acetate and petroleum ether (1:2). The title compound is obtained in the form of a yellow oil.

reactant | 7-bromo-5-bromomethyl-2,3-dimethoxy-quinoxaline | 2.35 mmol, 850 mg | BrC1=CC(=C2N=C(C(=NC2=C1)OC)OC)CBr | C11H10Br2N2O2
reactant | triethylamine | 0.982 ml | C(C)N(CC)CC | C6H15N
reactant | glycine tert-butyl ester hydrochloride | 719 mg | Cl.C(C)(C)(C)OC(CN)=O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | N-(7-Bromo-2,3-dimethoxy-quinoxalin-5-ylmethyl)-glycine tert-butyl ester | C(C)(C)(C)OC(CNCC1=C2N=C(C(=NC2=CC(=C1)Br)OC)OC)=O | C17H22BrN3O4
